US04908444
7-[2-(2-Chloroacetamidothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt (1.54 g), 4-(dimethylamino)pyridine (15 mg) and triethylamine (2.5 ml) were dissolved in a mixed solvent composed of tetrahydrofuran (5 ml) and water (1ml). The solution was cooled to -15° C. and propionic anhydride (1.9 ml) was added to the solution and the mixture was warmed to 10° C. and stirred at that temperature for 1 hour. The reaction mixture was then diluted with water, adjusted to pH 2.0 by addition of concentrated hydrochloric acid and extracted with a mixed solvent composed of methylene chloride and tetrahydrofuran (2:1 by volume). The organic layer was cooled in a dry ice bath, the precipitate ice was removed by filtration and the filtrate was concentrated to dryness. Diethyl ether (30 ml) was added to the residue, the resultant suspension was filtered and the solids were dried under reduced pressure to give 1.51 g of 7-[2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-propionyloxymethyl-3-cephem-4-carboxylic acid as a

reactant | 7-[2-(2-Chloroacetamidothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid sodium salt | 1.54 g | [Na+].ClCC(=O)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=N/OC
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 1.9 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 15 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | water | 1ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-chloroacetamidothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-propionyloxymethyl-3-cephem-4-carboxylic acid | 1.51 g | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(CC)=O)C(=O)O)C1=O)=N/OC | C19H20ClN5O8S2
